US07109148B2
First, 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionic acid (compound b-1) is dissolved in tetrahydrofuran, to which thionyl chloride is added under stirring, and the mixture is heated and stirred under reflux. After left for cooling and the subsequent concentration, the residue is dissolved in tetrahydrofuran (hereinafter referred to as solution A). Tetrahydrofuran is added to 1-pentyl alcohol, to which solution A id added and pyridine is then added. After stirring at room temperature, 2% aqueous hydrochloric acid is added to the reaction mixture, and the mixture is extracted with ethyl acetate. The organic layer is washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then concentrated. The residue is subjected to silica gel column chromatography (eluent: hexane/ethyl acetate=5/1) to give pentyl 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionate (compound b-19).

reactant | 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionic acid | ClC1=C(OC2=C(OC(C(=O)O)C)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H15ClF4N2O6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | pentyl 2-[2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]propionate | ClC1=C(OC2=C(OC(C(=O)OCCCCC)C)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C26H25ClF4N2O6
